US09334278B2
A mixture of 2-bromo-N-tert-butyl-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (150 mg, 351 μmol), 1,3-dimethyl-1H-pyrazol-4-amine (58.5 mg, 526 μmol), xantphos (60.9 mg, 105 μmol), Pd2(dba)3 (32.1 mg, 35.1 μmol) and cesium carbonate (229 mg, 702 μmol) in dioxane (2 mL) was heated in a microwave at 150° C. for 20 min. The mixture was cooled then filtered through a pad of celite. The filtrate was concentrated in vacuo then purified by chromatography (silica, 25-100% ethyl acetate in hexanes) lo give N-tert-butyl-2-(1,3-dimethyl-1H-pyrazol-4-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (89 mg, 194 μmol, 55%) as a yellow gum. (EI/CI) m/z: 458.3 [M+H].

reactant | 2-bromo-N-tert-butyl-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 351 μmol, 150 mg | BrC=1N=C2C(=NC1)N(C=C2C(=O)NC(C)(C)C)COCC[Si](C)(C)C | C17H27BrN4O2Si
reactant | 1,3-dimethyl-1H-pyrazol-4-amine | 526 μmol, 58.5 mg | CN1N=C(C(=C1)N)C | C5H9N3
reactant | xantphos | 105 μmol, 60.9 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 702 μmol, 229 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 35.1 μmol, 32.1 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-tert-butyl-2-(1,3-dimethyl-1H-pyrazol-4-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 194 μmol, 89 mg, 55% | C(C)(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)NC=2C(=NN(C2)C)C)COCC[Si](C)(C)C | C22H35N7O2Si
